datasets/RMG-dataset.csv
rxn,Ea
[C:0]1([H:7])([H:8])[C:1]([H:9])([H:10])[C:2]2([H:11])[C:3]([H:12])([H:13])[C:4]([H:14])([H:15])[C:5]1([H:16])[C:6]2([H:17])[H:18].[C:19](=[C:20]([H:22])[H:23])[H:21]>>[C:0]1([H:8])[C:1]([H:9])([H:10])[C:2]2([H:11])[C:3]([H:12])([H:13])[C:4]([H:14])([H:15])[C:5]1([H:16])[C:6]2([H:17])[H:18].[H:7][C:19](=[C:20]([H:22])[H:23])[H:21],5.0208
[C:0](=[C:1]1[C:2]([H:9])=[C:3]([H:10])[C:4]([H:11])([H:12])[C:5]([H:13])[C:6]1([H:14])[H:15])([H:7])[H:8]>>[C:0](=[C:1]1[C:2]([H:9])=[C:3]([H:10])[C:4]([H:12])=[C:5]([H:13])[C:6]1([H:14])[H:15])([H:7])[H:8].[H:11],171.1256
[C:0](=[C:1]([C:2](=[C:3]([C:4]([H:11])([H:12])[H:13])[C:5](=[C:6]([H:15])[H:16])[H:14])[H:10])[H:9])([H:7])[H:8].[C:17]([C:18]([c:19]1[c:20]([H:29])[c:21]([H:30])[c:22]([H:31])[c:23]([H:32])[c:24]1[H:33])[H:28])([H:25])([H:26])[H:27]>>[C:0](=[C:1]([C:2]([C:3]([C:4]([H:11])([H:12])[H:13])[C:5](=[C:6]([H:15])[H:16])[H:14])([H:10])[C:18]([C:17]([H:25])([H:26])[H:27])([c:19]1[c:20]([H:29])[c:21]([H:30])[c:22]([H:31])[c:23]([H:32])[c:24]1[H:33])[H:28])[H:9])([H:7])[H:8],28.493
[C:1]([C:2]#[C:3][H:4])(=[C:5]([C:6](=[C:7]([H:8])[H:9])[H:10])[H:11])[H:12]>>[C:1]1[C:2]([H:12])=[C:3]([H:4])[C:7]([H:9])=[C:6]([H:10])[C:5]1([H:8])[H:11],217.397
[C:0](=[C:1]([C:2](=[C:3]([H:7])[H:8])[H:6])[H:5])[H:4].[H:9]>>[C:0](#[C:1][C:2](=[C:3]([H:7])[H:8])[H:6])[H:4].[H:5][H:9],0.0
[C:0]([C:1]([C:2]([C:3]([C:4]([C:5]([H:18])([H:19])[H:20])=[C:6]([C:7]([H:21])([H:22])[H:23])[C:8](=[C:9]([H:25])[H:26])[H:24])([H:16])[H:17])([H:14])[H:15])([H:12])[H:13])([H:10])[H:11]>>[C:0]1([H:10])([H:11])[C:1]([H:12])([H:13])[C:2]([H:14])([H:15])[C:3]([H:16])([H:17])[C:4]([C:5]([H:18])([H:19])[H:20])[C:6]1([C:7]([H:21])([H:22])[H:23])[C:8](=[C:9]([H:25])[H:26])[H:24],53.095
[C:0](=[C:1]([C:2]1([H:10])[C:3]([H:11])=[C:4]([H:12])[C:5]([H:13])[C:6]1([H:14])[H:15])[H:9])([H:7])[H:8]>>[C:0](=[C:1]([C:2]1([H:10])[C:3]([H:11])=[C:4]([H:12])[C:5]([H:13])([H:14])[C:6]1[H:15])[H:9])([H:7])[H:8],185.3512
[C:0](=[S:1])([H:2])[H:3].[C:4]([S:5][H:8])([H:6])[H:7]>>[C:0](=[S:1])[H:3].[H:2][C:4]([S:5][H:8])([H:6])[H:7],105.311
[C:0](=[C:1]([C:2](=[C:3]([c:4]1[c:5]([H:14])[c:6]([H:15])[c:7]([H:16])[c:8]([H:17])[c:9]1[H:18])[H:13])[H:12])[H:11])[H:10]>>[C:0]1([H:10])=[C:1]([H:11])[C:2]([H:12])[C:3]1([c:4]1[c:5]([H:14])[c:6]([H:15])[c:7]([H:16])[c:8]([H:17])[c:9]1[H:18])[H:13],138.055264
[C:0](#[C:1][C:2]([C:3]([H:7])([H:8])[H:9])([H:5])[H:6])[H:4].[C:10](=[C:11]([C:12]([S:13][H:18])[H:17])[H:16])([H:14])[H:15]>>[C:0](#[C:1][C:2]([C:3]([H:7])([H:8])[H:9])[H:6])[H:4].[H:5][C:12]([C:11](=[C:10]([H:14])[H:15])[H:16])([S:13][H:18])[H:17],48.5344
[C:0](#[C:1][C:2]([C:3]([C:4]([C:5]([H:14])([H:15])[H:16])=[C:6]([C:7]([H:17])([H:18])[H:19])[C:8]#[C:9][H:20])([H:12])[H:13])[H:11])[H:10]>>[C:0](#[C:1][C:2]1([H:11])[C:3]([H:12])([H:13])[C:4]([C:5]([H:14])([H:15])[H:16])[C:6]1([C:7]([H:17])([H:18])[H:19])[C:8]#[C:9][H:20])[H:10],160.749
[C:0](#[C:1][C:2]([S:3][H:7])([H:5])[H:6])[H:4].[C:8]([C:9]=[S:10])([H:11])([H:12])[H:13]>>[C:0](#[C:1][C:2]([S:3][H:7])[H:6])[H:4].[H:5][C:9]([C:8]([H:11])([H:12])[H:13])=[S:10],30.1248
[C:0]([C:1]([C:2]([C:3]([C:4]([C:5](=[C:6]([C:7]([H:20])([H:21])[H:22])[C:8]([H:23])([H:24])[H:25])[H:19])([H:17])[H:18])([H:15])[H:16])([H:13])[H:14])[H:12])([H:9])([H:10])[H:11]>>[C:0]([C:1]1([H:12])[C:2]([H:13])([H:14])[C:3]([H:15])([H:16])[C:4]([H:17])([H:18])[C:5]([H:19])[C:6]1([C:7]([H:20])([H:21])[H:22])[C:8]([H:23])([H:24])[H:25])([H:9])([H:10])[H:11],48.3252
[C:0]([O:1][H:5])([H:2])([H:3])[H:4].[C:6]([C:7]([C:8]([H:13])([H:14])[H:15])[C:9]([H:16])([H:17])[H:18])([H:10])([H:11])[H:12]>>[C:0]([H:2])([H:3])[H:4].[O:1]([H:5])[C:7]([C:6]([H:10])([H:11])[H:12])([C:8]([H:13])([H:14])[H:15])[C:9]([H:16])([H:17])[H:18],148.795
[C:0](#[C:1][C:2]([C:3]([H:6])([H:7])[H:8])[H:5])[H:4].[C:9](=[C:10]([C:11](=[C:12]([H:17])[H:18])[H:16])[H:15])([H:13])[H:14]>>[C:0](#[C:1][C:2]([C:3]([H:6])([H:7])[H:8])([H:5])[H:15])[H:4].[C:9](=[C:10][C:11](=[C:12]([H:17])[H:18])[H:16])([H:13])[H:14],78.6592
[C:0]([C:1]=[S:2])([H:3])([H:4])[H:5].[S:6]([S:7][H:9])[H:8]>>[C:0]([C:1](=[S:2])[H:8])([H:3])([H:4])[H:5].[S:6][S:7][H:9],-11.7152
[C:0](#[C:1][C:2]([C:3]([H:6])([H:7])[H:8])[S:4][H:9])[H:5].[S:10]=[C:11]([S:12][H:14])[H:13]>>[C:0](#[C:1][C:2]([C:3]([H:6])([H:7])[H:8])([S:4][H:9])[H:14])[H:5].[S:10]=[C:11]([S:12])[H:13],16.3176
[C:0](#[C:1][C:2]([C:3]([H:7])([H:8])[H:9])([S:4][H:10])[H:6])[H:5].[C:11]([C:12]([C:13]([H:19])([H:20])[H:21])[C:14](=[S:15])[H:22])([H:16])([H:17])[H:18]>>[C:0](#[C:1][C:2]([C:3]([H:7])([H:8])[H:9])[S:4][H:10])[H:5].[H:6][C:12]([C:11]([H:16])([H:17])[H:18])([C:13]([H:19])([H:20])[H:21])[C:14](=[S:15])[H:22],36.8192
[C:0](=[C:1]([C:2]([C:3](=[C:4]([C:5]([C:6](=[C:7]([C:8]([H:19])([H:20])[H:21])[C:9]([H:22])([H:23])[H:24])[H:18])([H:16])[H:17])[H:15])[H:14])[H:13])[H:12])([H:10])[H:11]>>[C:0](=[C:1]([C:2]1([H:13])[C:3]([H:14])=[C:4]([H:15])[C:5]([H:16])([H:17])[C:6]([H:18])[C:7]1([C:8]([H:19])([H:20])[H:21])[C:9]([H:22])([H:23])[H:24])[H:12])([H:10])[H:11],136.357
